US06166064
3-Chloro-1-indan-5-yl-propan-1-one
To a stirred solution of indane (300 grams) and 3-chloropropionoyl chloride (323 grams) in methylene chloride (2 L) at 0° C. was added aluminum chloride (376 grams) over a period of 3 hours. Once the addition was complete, the cooling bath was removed and the mixture was warmed to room temperature and stirred until hydrogen chloride evolution ceased. The reaction was quenched by pouring onto a mixture of 3.5 kg of ice and 700 mL of concentrated hydrochloric acid. The layers were separated, and the aqueous phase was extracted with methylene chloride. The combined methylene chloride layers were washed with water, saturated sodium bicarbonate solution and brine. The organic phase was dried with anhydrous sodium sulfate and concentrated in vacuo. The residue was recrystallized from hexane to afford 282 grams of a yellow solid, m.p. 63.5-65.1° C.

reactant | indane | 300 grams | C1CCC2=CC=CC=C12 | C9H10
reactant | 3-chloropropionoyl chloride | 323 grams | ClCCC(=O)Cl | C3H4Cl2O
reactant | aluminum chloride | 376 grams | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 2 L | C(Cl)Cl | CH2Cl2
product | 3-Chloro-1-indan-5-yl-propan-1-one | 282 grams | ClCCC(=O)C=1C=C2CCCC2=CC1 | C12H13ClO
